US05220026
3-Methyl-6-nitroindazole (5.31 g), 6.93 g of 2-bromo-6-methoxybenzoic acid, 4.71 g of potassium carbonate and 0.218 g of copper (II) oxide were stirred in 60 ml of nitrobenzene at 180° C. for 50 minutes. After cooling, 300 ml of water was added to the reaction mixture, and the insoluble substance was removed by filtration. The resulting solution was washed with chloroform. The aqueous layer was decolored with active charcoal and filtered, and 40 ml of 1 N hydrochloric acid aqueous solution was added to the filtrate. The crystals precipitated were separated by filtration and dried under reduced pressure to obtain 7.45 g (75.9%) of 1-(2-carboxy-3-methoxyphenyl)-3-methyl-6-nitroindazole.

reactant | 3-Methyl-6-nitroindazole | 5.31 g | CC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O2
reactant | 2-bromo-6-methoxybenzoic acid | 6.93 g | BrC1=C(C(=O)O)C(=CC=C1)OC | C8H7BrO3
reactant | potassium carbonate | 4.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | nitrobenzene | 60 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper (II) oxide | 0.218 g | [Cu]=O
product | 1-(2-carboxy-3-methoxyphenyl)-3-methyl-6-nitroindazole | 7.45 g, 75.9% | C(=O)(O)C1=C(C=CC=C1OC)N1N=C(C2=CC=C(C=C12)[N+](=O)[O-])C | C16H13N3O5
